US05344843
To a solution of 4-[[2-[2-[(2,2-dimethyl-1 -oxobuyloxy)methyl]-6-methylphenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.554 g) in methanol (10 mL) was added aqueous 1N sodium hydroxide (2.5 mL). After 30 minutes at 50° C., the reaction was acidified with 1N hydrochloric acid (2 mL) and extracted with dichloromethane. The organic phase was washed with brine and evaporated to provide 0.47 g of 4-[[2-[2-[(2,2-dimethyl-1-oxobuyloxy) methyl]-6-methylphenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid (2:1) hydrate as a clear oil.

reactant | 4-[[2-[2-[(2,2-dimethyl-1 -oxobuyloxy)methyl]-6-methylphenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.554 g | COC(C(C1=CC=C(C=C1)OCCOC1=C(C=CC=C1C)COC(C(CC)(C)C)=O)=O)=O | C25H30O7
reactant | sodium hydroxide | 1N, 2.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 4-[[2-[2-[(2,2-dimethyl-1-oxobuyloxy) methyl]-6-methylphenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.47 g | CC(C(OCC1=C(OCCOC2=CC=C(C=C2)C(C(=O)O)=O)C(=CC=C1)C)=O)(CC)C | C24H28O7
